US07915271B2
To a solution of 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-5-(2-methylpyridin-4-yl)-2-oxo-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid (15 mg, 0.025 mmol) in CH2Cl2 (2 mL), was added 2M oxalyl chloride in CH2Cl2 (0.038 mL, 0.076 mmol) and 2 drops of DMF. The mixture was stirred at room temperature under N2 for 30 min. The reaction mixture was concentrated in vacuo. The residue was re-dissolved in THF (2 mL), then ammonium hydroxide (0.035 mL, 0.254 mmol) and diisopropylethylamine (0.013 mL, 0.076 mmol) were added. The resulting mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated in vacuo and the residue was purified by preparative HPLC reverse phase (C-18), eluting with MeCN/water. The fractions were collected and lyophilized to give 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-5-(2-methylpyridin-4-yl)-2-oxo-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxamide as a white powder. LCMS calc.=590.2; found=590.0 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 8.49 (t, J=4.3 Hz, 1H); 7.77 (br s, 1H); 7.72 (s, 0.5H); 7.66 (br s, 1.5H); 7.46-7.38 (m, 3H); 7.33-7.29 (m, 1H); 7.14 (dd, J=2.2, 7.7 Hz, 1H); 7.09 (dd, J=6.2, 8.5 Hz, 1H); 7.06 (s, 0.5H); 7.01 (s, 0.5H); 6.95 (d, J=4.3 Hz, 0.5H); 6.90 (d, J=4.4 Hz, 0.5H); 6.17 (br s, 1H); 5.79 (br s, 1H); 5.43 (d, J=8.1 Hz, 0.5H); 5.20 (d, J=8.0 Hz, 0.5H); 4.92 (d, J=15.9 Hz, 0.5H); 4.86 (d, J=15.8 Hz, 0.5H); 4.22 (d, J=15.8 Hz, 0.5H); 4.00 (d, J=15.8 Hz, 0.5H); 3.88 (s, 1.5H); 3.87 (s, 1.5H); 3.80-3.75 (m, 1H); 2.57 (s, 1.5H); 2.56 (s, 1.5H); 2.39 (s, 1.5H); 2.35 (s, 1.5H); 0.58 (d, J=6.5 Hz, 1.5H); 0.47 (d, J=6.5 Hz, 1.5H).

reactant | 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-5-(2-methylpyridin-4-yl)-2-oxo-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | 0.025 mmol, 15 mg | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)O)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC(=NC=C1)C)=O | C33H29F3N2O5
reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 0.254 mmol, 0.035 mL | [OH-].[NH4+]
reactant | diisopropylethylamine | 0.076 mmol, 0.013 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.076 mmol, 0.038 mL | C(Cl)Cl | CH2Cl2
product | 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-5-(2-methylpyridin-4-yl)-2-oxo-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxamide | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)N)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC(=NC=C1)C)=O | C33H30F3N3O4
